US04559353
A mixture of triethyloxonium tetrafluoroborate (8.0 g, 0.042M), 2,6-difluorobenzamide (5.62 g, 0.036M) and methylene chloride was stirred at 20° C. for 18 hours, after which an excess of aqueous sodium bicarbonate solution was added. The methylene chloride phase was separated and dried over anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure yielded ethyl 2,6-difluorobenzimidate as a pale yellow oil (6.0 g) which was used without further purification.

reactant | triethyloxonium tetrafluoroborate | 0.042M, 8.0 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | 2,6-difluorobenzamide | 0.036M, 5.62 g | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 2,6-difluorobenzimidate | 6.0 g | FC1=C(C(OCC)=N)C(=CC=C1)F | C9H9F2NO
